Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
piperacillin / Penicillins
 
Attending: ___
 
Chief Complaint:
Foot wound
 
Major Surgical or Invasive Procedure:
Right foot wound debridement down to bone ___
Angioplasty right external iliac ___
Thoracentesis ___
Chest tube placement ___ and removal ___
Mediastinal lymph node biopsy  ___

 
History of Present Illness:
This is a ___ with a past medical history significant 
for T2DM complicated by neuropathy, nephropathy, ESRD on HD 
___, neuropathy and diabetic wounds s/p multiple amputations 
who presented from ___ for worsening plantar 
heel ulceration. The patient reported that he was unsure how 
long this wound had been present, but reported that it had been 
a long time-- upwards of years. The patient did report that he 
has noticed an increase in the amount of drainage and 
foul-smelling
odor from the wound recently. He was seen was an outpatient in 
the ___ clinic on ___ and the ulcer was excisionally 
debrided of necrotic and nonviable tissue down to and including 
the level of the deep fascia. He was subsequently referred to 
the
___ ED due to concern for deep tissue infection and IV 
antibiotics. 

Upon arrival to the ED at ___, the patient was afebrile and 
his vitals were stable and within normal limits. He was resting 
comfortably and in no pain. He had labs done which were within 
normal limits with the exception of a Cr of 4.0, HgB 11.1, and 
INR 1.4. He had a foot XR showing loss of cortical detail at the 
distal aspect of the cuboid, potentially concerning for 
osteomyelitis as well as significant deformity of the hindfoot 
appears grossly unchanged with large heel soft tissue defect. 
The patient was started on Linezolid and Ceftazidime. Wound 
aerobic/anaerobic cult & gram stain were sent as well as Blood
cultures. 

Podiatry was consulted and evaluated the patient and felt the R 
plantar foot wound was grossly infected w/ significant fibrotic/ 
necrotic tissue with deep probing to calcaneus, and surrounding 
erythema. Podiatry performed a deep swab for culture. Their team 
recommended admission to medicine for IV abx and felt he would 
benefit from a debridement in the OR but before vascular 
optimization as he is a known vasculopath w/ hx of L AKA and 
multiple other amputations. Vascular Surgery was also consulted
and recommended admission to medicine for antibiotics and 
podiatry intervention as well as non-invasives. 
 
Upon arrival to the floor, the patient reports that he is still 
experiencing some soreness of his right foot, but otherwise 
feels well. He is upset that it took him so long to get a room 
on the medical floor. He would like to eat. He denies fevers, 
chills, chest pain, shortness of breath, leg/stump pain. 
Otherwise, the patient endorses the above history.  
 
Past Medical History:
- Cirrhosis
- COPD
- Hep C
- afib
- ESRD on HD
- Diabetes mellitus, type 2 complicated by peripheral 
  neuropathy, nephropathy
- Hypertension
- Hyperlipidemia
- Left AKA
- H/o CVA ___ w no residual deficits
 
Social History:
___
Family History:
- Brother diagnosed with DM and passed away in his ___ from 
  unknown cause. 
- Father had colon cancer and had a heart attack in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital signs:
T 97.8 BP 154 / 81 HR 101 RR  16 O2 Sat 97 Ra 

General: Alert and oriented. Conversant. 
HEENT: Sclera anicteric. PERRLA, EOMI. +Moist mucous membranes
without lesions or thrush. 
Neck: JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally.
CV: Regular rate and rhythm, no murmurs.
Abdomen: Soft, non-tender, non-distended
Ext: There is a malodorous, large necrotic ulcer which probes to 

bone. L AKA with no obvious ulcerations.
Neuro: Absence of touch sensation bilaterally from mid shin to 
toes, medial > lateral sensation deficit. 
Psych: Patient agitated and upset. 

DISCHARGE PHYSICAL EXAM
========================
GENERAL:  NAD
RESP:  Diminished BS/some crackles in R base at site of pleural
effusion
___:  RRR no MRG
GI:  soft, NTND
EXT:  warm, no edema. all digits on left hand amputated. 2 and
___ digit amputated right hand. L BKA. R ankle wrapped in clean
gauze. Fistula on L arm with soft thrill
NEURO:  Alert/conversant, oriented to situation but speaks with
long pauses, a degree of cognitive impairment is evident  
ACCESS: PIV
 
Pertinent Results:
ADMISSION LABS
===============
___ 03:20PM BLOOD WBC-7.0 RBC-3.61* Hgb-11.1* Hct-34.3* 
MCV-95 MCH-30.7 MCHC-32.4 RDW-13.5 RDWSD-46.0 Plt ___
___ 03:20PM BLOOD Neuts-54.5 ___ Monos-11.3 Eos-2.3 
Baso-0.7 Im ___ AbsNeut-3.82 AbsLymp-2.16 AbsMono-0.79 
AbsEos-0.16 AbsBaso-0.05
___ 03:20PM BLOOD ___ PTT-35.2 ___
___ 03:20PM BLOOD Glucose-107* UreaN-20 Creat-4.0* Na-144 
K-3.8 Cl-99 HCO3-29 AnGap-16
___ 10:14AM BLOOD Albumin-4.2 Calcium-8.5 Phos-3.5 Mg-2.2
___ 03:20PM BLOOD %HbA1c-5.1 eAG-100
___ 03:35PM BLOOD Lactate-1.2

PATHOLOGY:
==========
Reports being finalized, verbal reports as mentioned in hospital 
course

PLEURAL FLUID
------------------
___ 02:47PM PLEURAL TotProt-4.2 LD(LDH)-110
___ 02:47PM PLEURAL TNC-1214* RBC-2999* Polys-2* Lymphs-73* 
Monos-16* Macro-9*
___ 08:37AM PLEURAL TotProt-3.7 Glucose-95 LD(LDH)-176 
Cholest-33 Triglyc-55 ___
___ 08:37AM PLEURAL TNC-656* ___ Polys-31* 
Lymphs-63* Monos-5* Eos-1*

FLOW CYTOMETRY IMMUNOPHENOTYPING ___
The following tests (antibodies) were performed: Kappa, Lambda, 
and CD antigens 2, 3, 4, 5, 7, 8, 10, 11c, 19, 20, 23, 34, 38, 
45, and 56.

RESULTS:
10-color analysis with CD45 vs. side-scatter gating is used to 
evaluate for lymphoma.
Approximately 70.1% of total acquired events are evaluable 
non-debris events.
The viability of the analyzed non-debris events, done by 7-AAD 
is 98.5%.
CD45-bright, low side-scatter gated lymphocytes comprise 81.9% 
of total analyzed events.
B cells comprise 22.4% of lymphoid-gated events.
B cells demonstrate monoclonal kappa light chain restriction. 
They co-express pan-B cell markers CD19 and CD20. They do not 
express any other characteristic antigens including CD5, CD10, 
CD11c, CD23, CD34 and CD38.
T cells comprise 66.6% of lymphoid gated events and express 
mature lineage antigens (CD3, CD5, CD2, and CD7).
Non-specific loss of CD7 is seen in a minor subset of cells.
T cells have a CD4:CD8 ratio of 2.8.
CD56 positive, CD3 negative natural killer cells represent 7.5% 
of gated lymphocytes. They co-express CD2, CD7 and CD8 (subset).
A discrete plasma cell population is not identified.

INTERPRETATION
Immunophenotypic findings consistent with involvement by a CD5 
negative/CD10 negative and kappa restricted B-cell lymphoma. 
Correlation with clinical and other ancillary findings is 
recommended. A biopsy of a pathologically enlarged lymph node or 
submission of another sample for cytogenetics work-up could be 
considered. Flow cytometry immunophenotyping may not detect all 
abnormal populations due to topography, sampling or artifacts of 
sample preparation.

MICROBIOLOGY
===============
___ 7:00 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 8:37 am FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PLEURAL FLD. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:37 am PLEURAL FLUID      PLEURAL FLD. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 2:47 pm PLEURAL FLUID

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

IMAGING/STUDIES
================

FOOT XR ___
IMPRESSION: 
Loss of cortical detail at the distal aspect of the cuboid, 
potentially concerning for osteomyelitis.  Significant deformity 
of the hindfoot appears grossly unchanged with large heel soft 
tissue defect.

RIGHT LOWER EXTREMITY VENOUS MAPPING ___
FINDINGS: 
RIGHT:
The great saphenous vein is patent. Vein diameters are as 
follows: Proximal:
4.9 mm
Mid thigh: 5.3 mm
Distal thigh: 5 mm
Popliteal fossa: 4.8 mm
Proximal calf:  2.4 mm
Mid calf: 3.7 mm
Distal calf:  3.0 mm
 
The small saphenous vein is patent. Vein diameters are as 
follows:
Proximal:  4.7 mm
Mid:  4.2 mm
Distal:  3.5 mm
 
IMPRESSION: 
 
Patent GSV and SSV in the right lower extremity.  Measurements 
are above.

RIGHT UPPER EXTREMITY VENOUS MAPPING ___
RIGHT:
The cephalic vein measures 0.32 cm at the wrist, 0.33 cm at the 
distal forearm, 0.27 cm at the mid forearm, 0.45 cm at the 
antecubital fossa, 0.43 cm at the proximal arm, 0.33 cm at the 
mid arm and 0.43 cm at the distal arm. The basilic vein measures 
0.44 cm at the forearm, 0.43 cm at the antecubital fossa, 0.42 
cm at its mid portion, and 0.39 cm at the proximal portion.
 
IMPRESSION: 
 
The right cephalic and basilic veins are patent.  Measurements 
are above.

ABI REST ONLY ___
FINDINGS: 
On the right side, monophasic doppler waveforms are seen in the 
right femoral, superficial femoral, popliteal, and posterior 
tibial arteries.
The right ABI was 0.38.  Low pulse volume recordings are noted 
in the distal extremity.
IMPRESSION: 
Severe multilevel (aortoiliac, right SFA and right tibial) 
arterial
insufficiency.

CTA ABDOMEN/PELVIS WITH RUNOFF ___

1. Abdominal aorta:No stenosis.
2. Celiac axis: No stenosis.
3. SMA: No stenosis.
4. ___: Severe stenosis (70-99%).
5. Renal arteries: Left: Severe stenosis (70-99%).; Right: Mild 
stenosis
(<50%).
6. Left common iliac: Mild stenosis (<50%).
7. Right common iliac: Mild stenosis (<50%).
8. Left external iliac: Moderate stenosis (50-69%).
9. Right external iliac: Moderate stenosis (50-69%).
10. Left internal iliac: Moderate stenosis (50-69%).
11. Right internal iliac: Moderate stenosis (50-69%).
CTA run-off RLE:
 
1. Common femoral artery: Moderate stenosis (50-69%).
2. Superficial femoral artery: Severe stenosis (70-99%).
3. Deep femoral artery: Moderate stenosis (50-69%).
4. Popliteal artery: Severe stenosis (70-99%).
5. Anterior tibial artery: No stenosis.
6. Posterior tibial artery: No stenosis.
7. Peroneal artery: No stenosis.
8. Dorsalis pedis: No stenosis.
CTA run-off LLE:
 
1. Common femoral artery: Moderate stenosis (50-69%).
2. Superficial femoral artery: Severe stenosis (70-99%).
3. Deep femoral artery: Severe stenosis (70-99%).
There is no abdominal aortic aneurysm. There is severe calcium 
burden in the
abdominal aorta and great abdominal arteries.
 
LOWER CHEST: Large volume of right pleural effusion with 
thickening and mild
enhancement of pleural for which infectious etiology is 
considered. There is
associated atelectasis of the lung.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. There
is no evidence of focal lesions. There is no evidence of 
intrahepatic or
extrahepatic biliary dilatation.  The gallbladder is edematous
 
PANCREAS: Marked inflammatory stranding is seen in the upper 
abdominal
mesentery as well as surrounding the pancreatic head.  There is 
no stone or
obstructive lesion noted.  There is no mass.  No pancreatic 
ductal dilatation.
 
SPLEEN: The spleen is within upper limit of normal size normal 
size , without
evidence of focal lesions.  Small accessory spleen is noted.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are atrophic.  1.7 cm exophytic lesion 
arising from the
midpole of right kidney incompletely characterize.  1.9 cm 
markedly enhancing
left lower pole renal lesion is suspicious for renal cell 
carcinoma.  There is
no hydronephrosis.  There is no perinephric abnormality.
 
GASTROINTESTINAL: Small bowel loops demonstrate normal caliber, 
wall thickness
and enhancement throughout.  There is sigmoid diverticulosis..
 
 
RETROPERITONEUM: Multiple mesenteric and retroperitoneal 
lymphadenopathy are
seen measuring up to 1.5 cm.
 
PELVIS: The urinary bladder is collapsed.  There are pelvic 
sidewall and
inguinal lymphadenopathy measuring up to 1.4 cm.  There is no 
free fluid in
the pelvis.
 
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.
 
BONES: The bone is demineralized and multiple lytic lesions are 
seen in the
pelvis, indeterminate.  There are left acetabular subchondral 
cyst and
Schmorl's nodes in the vertebral body.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION:

1. Large volume of right pleural effusion with thickening and 
mild enhancement
of pleural for which infectious etiology is considered. There is 
associated
atelectasis of the lung.
2. Marked inflammatory stranding is seen in the upper abdominal 
mesentery as
well as surrounding the pancreatic head likely 
inflammatory/pancreatitis.
Please correlate clinically and lipase level.
3. Large right inguinal hernia containing nonobstructed loop of 
small bowel.
4. Markedly enhancing left renal lower pole mass measuring 1.9 
cm suspicious
for renal cell carcinoma.
5. Extensive lymphadenopathy involving the abdomen and pelvis 
might be
infectious or neoplastic in etiology.
6. Lytic lesions are seen in bony pelvis, indeterminate.
7. Small volume of ascites.
8. Diverticulosis.

CT CHEST ___
IMPRESSION: 
 
Mediastinal lymphadenopathy and moderate pleural effusion with 
pleural
enhancement could be malignant or inflammatory.
Diffuse ground-glass opacities in the lung, most pronounced to 
the right,
probably mild pulmonary edema.
 
RECOMMENDATION(S):  Diagnostic thoracentesis, if not already 
performed.

THORACENTESIS ___
IMPRESSION: 
Uneventful and successful drainage of a right pleural effusion.  
Microbiology,
cytology, pleural analysis and pleural chemistry are pending.
Thickened pleura, likely due to a fibrotic reaction.

CXR ___
IMPRESSION: 
1.  Moderate right basilar pneumothorax following placement of 
pigtail catheter.  Interval improvement of right pleural 
effusion.

CT GUIDED LN BIOPSY ___
IMPRESSION: 
 
Technically successful CT-guided left periaortic lymph node 
biopsy.  3 cores
in formalin sent to pathology.  No immediate complications.

CT HEAD ___
IMPRESSION: 
No acute intracranial abnormality.
Brain parenchymal atrophy.
Probable right frontal bone fibro-osseous lesion, clinical 
follow-up recommended.

MRI HEAD ___
1. No acute findings.
2. Chronic small-vessel ischemic change, brain parenchymal 
atrophy.

DISCHARGE LABS
================
___ 05:30AM BLOOD WBC-13.1* RBC-3.77* Hgb-11.7* Hct-35.8* 
MCV-95 MCH-31.0 MCHC-32.7 RDW-14.3 RDWSD-49.9* Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD Glucose-102* UreaN-46* Creat-6.2*# 
Na-130* K-4.6 Cl-88* HCO3-26 AnGap-16
___ 05:30AM BLOOD Calcium-7.5* Phos-5.7* Mg-2.2
 
Brief Hospital Course:
PATIENT SUMMARY
==================
___ man with a past medical history significant for T2DM 
complicated by neuropathy, nephropathy, ESRD on HD ___, and 
diabetic wounds s/p multiple amputations who presented from ___ 
___ for worsening plantar heel ulceration with 
concern for soft tissue infection and osteomyelitis. As detailed 
below, he underwent debridement by podiatry, lower extremity 
angioplasty by vascular surgery, and was transitioned to oral 
Augmentin with some evidence of wound healing prior to 
discharge. On preoperative imaging for vascular surgery he was 
incidentally found to have a pleural effusion which tested 
positive for B-cell lymphoma on cytology, bone marrow biopsy 
confirming lymphoplasmacytic lymphoma. He remained stable and 
was discharged on Augmentin with plan for outpatient PET-CT, 
possible lung biopsy, and oncology followup. 

ACUTE/ACTIVE PROBLEMS: 
=============================
# Right Foot Soft Tissue Infection/Osteomyelitis 
Patient presented from his outpatient podiatrist with concerns 
for a deep soft tissue infection & osteomyelitis of his right 
foot. The ulcer was excisionally debrided of necrotic and 
nonviable tissue down to and including the level of the deep 
fascia on ___ by his primary podiatrist prior to 
presentation to the ED. Upon arrival to the ED, the patient was 
stared on antibiotics with Linezolid and Ceftazidime given his 
other antibiotic allergies. Upon further questioning, patient's 
documented allergy to vancomycin was an irritation when given 
through peripheral IV. He did not have any rash, throat closing, 
tongue swelling, or difficulty breathing. Given this, vancomycin 
was administered with HD, and linezolid discontinued, with 
addition of metronidazole for anaerobic coverage pending culture 
results.

He went back to the OR with podiatry on ___ for additional 
debridement, which revealed no pus, but not much bleeding. More 
cultures were sent, and wound vac was not placed. He had 
angioplasty of the external iliac ___ with vascular surgery, 
however no stents were placed due to patient's inability to 
tolerate the procedure due to itchiness. 

Micro during this admission notable for beta strep/bacteroides 
(swab ___ and MSSA (tissue ___. Unfortunately, Mr. ___ 
had GI upset when taking Flagyl by mouth. Due to his listed 
allergies, this limited his choice and antibiotics. Although 
ertapenem daily would have been an option, this would have 
required PICC placement, and the patient already with a left 
upper extremity fistula. He was not amenable to this idea. Upon 
further questioning, the patient's allergy to penicillin was 
deemed questionable, and so he underwent graded challenge with 
ampicillin, and successfully received augmentin. He is to 
continue these antibiotics for 6 weeks but ID will follow up 
with him as an outpatient. 

# Peripheral Vascular Disease 
The patient has a history of peripheral vascular disease which 
is likely contributing to the above ulcer/infection. Vascular 
surgery was consulted in the ED and recommended non-invasive 
imaging, IV antibiotics, and podiatry intervention. Of note, 
angiogram in ___ showed moderate iliac, femoropopliteal and 
tibial arterial occlusion. He was recommended for angiography 
with intervention which the patient declined and left AMA prior 
to any intervention being done. At that time he was started on 
an ASA, statin, however he does not take these as an outpatient 
due to his perception that they hurt him. 

He is status post angioplasty of the external iliac artery on 
___. Unfortunately the patient did not tolerate the whole 
procedure, so further angioplasty could not be performed. Stents 
were not placed, given the patient's nonadherence to 
medications, and his inability to tolerate the procedure. A week 
into his hospitalization, he began to be compliant with his 
aspirin and statin. 

# Lymphoplasmacytic lymphoma
CT abdomen and pelvis obtained for planning of vascular 
procedure on ___ showed right pleural effusion with 
thickening, inflammatory stranding in the upper abdominal 
mesentery, and surrounding pancreatic head, markedly enhancing 
left renal lower pole mass, and extensive lymphadenopathy 
involving abdomen and pelvis, as well as lytic lesions in bony 
pelvis. CT chest was then obtained to examine for metastases. It 
showed diffuse lymphadenopathy, pleural thickening and pleural 
effusion, which was tapped by thoracentesis by ___ on ___, 
followed by chest tube placement by IP on ___ with 
para-aortic lymph node biopsy by ___ ___. Flow cytometry of 
pleural fluid revealed B cell lymphoma; para-aortic LN biopsy 
was, however, normal on pathologic examination. He was 
transferred to the heme-onc service where he underwent bone 
marrow biopsy, revealing lymphoplasmacytic lymphoma. Plan for 
outpatient PET-CT for staging purposes, then potential 
transbronchial lung mass/node biopsy by IP depending on what PET 
shows (because would need to assess for transformation to high 
grade lymphoma). Did not start any treatment this 
hospitalization. Has scheduled ___ clinic appointment next 
___ with Dr. ___ at ___.

# Encephalopathy
Early on in admission Patient with subacute change in 
personality, was less argumentative, and with poor memory and 
hypersexual behavior. This was very far from his baseline per 
his family and not consistent with even prior hospitalizations. 
Although first noted after ___ guided lymph node biopsy, during 
which he received a total of 75 mcg fentanyl, per family and 
nursing he has had a change in personality over the last few 
days. Initial concern for lingering effects of fentanyl given 
stage renal disease, toxic metabolic encephalopathy, or 
difficulty with adjustment after finding out he has cancer. Head 
CT was performed on ___, which was negative for acute 
pathology. MRI ___ also negative for acute abnormality. His 
personality changes resolved spontaneously on ___, 
consistent with delirium.

#SOB/Diaphoresis: 
Patient with an episode of SOB/diaphoresis ___ of ___ in the 
setting of significant episode of nausea and emesis. With the 
extent of his vascular disease, he is highly likely to have at 
least some degree of CAD. His SOB/diaphoresis has not recurred, 
and his cardiac enzymes were stable. He refused ECG, and began 
to feel better stopping p.o. Flagyl.

# Medication Reconciliation
# Medication nonadherence
The patient presented with a list of medications and he was 
unsure which ones he was on or filling. His list included both 
an ACEi (Lisinopril) and ___ (Olmesartan) which were both 
held given unclear fill history and indication. The patient's 
med list also states he is on simvastatin-- it is unclear why he 
would not be on atorva or rosuva given severity of his vascular 
disease. Patient reports that he uses ___ in ___ on ___ 
Street, however when we called that ___, he only used it to fill 
antibiotics and calcium. Per patient, he does not take any other 
medications at home, because he distrusts that they are good for 
him. He has agreed to take the antibiotics, but greatly 
distrusts that other medications are good for him. 

CHRONIC ISSUES
=================
#ESRD on HD (MWF): 
He received dialysis while in-house per his regular schedule.

#Atrial Fibrillation: 
Patient has a CHADsVASc 5. He is not on anticoagulation at home 
(confirmed with pt.). Rates controlled on presentation, and 
patient refusing telemetry, so discontinued. He has refused 
anticoagulation in the past and is not interested in starting 
now. Sent home with metoprolol succinate for rate control. 

#Type II DM 
Hemoglobin A1c 5 on admission, and patient refusing 
fingersticks. 

#HTN
Although antihypertensives were on his medication list, patient 
denied taking any medications other than outpatient, and refused 
all antihypertensives while in house. 

# Hyperlipidemia
Patient is written for home statin, although has never filled 
the prescription. He was written for statin while in house, but 
continually refused. 

# Cirrhosis
# Hep C
Follows w/ ___ clinic as outpatient at ___. He was not 
on any medications for his cirrhosis prior to presentation. No 
signs of decompensation/ascites/or encephalopathy at this time. 
Baseline LFTs on admission were within normal limits. 

# Behavioral Issues
# Adjustment disorder
On previous admissions and at outpatient appointments, the 
patient intermittently declined labs and was frequently verbally 
abusive to staff. Psychiatry previously evaluated the patient 
and felt he met criteria for an adjustment disorder and a 
chronic neurocognitive disorder due to his medical 
comorbidities. 

TRANSITIONAL ISSUES
====================
[] Wound care for foot osteomyelitis as below:
 Site: R Foot 
 Cleansing agent: Saline
 Dressing: Gauze- moist to dry
 Change dressing: qday
 Comment: Betadine, gauze, Kerlix, and light ACE to be performed 
by ___.
 NWB to R foot (patient able to place weight on
 forefoot for transfers)
[] f/u with podiatry 1 week post discharge (appointment 
scheduled)
[] Possible RCC (1.9 cm) based on enhancement pattern on CTAP. 
Seems more likely lymphoma based on Occham's Razor but may 
warrant further workup at discretion of outpatient provider
[] Patient is to complete 6 weeks of augmentin, potential end 
date ___
 with ID follow up as above
[] ___ PET-CT 7:30 AM for lymphoma staging
[] IP should arrange ___ appointment to see patient for 
possible lung bx 
[] ATTN Primary care: please consider high-intensity statin and 
anticoagulation, neither of which the patient is on (admittedly 
probably because of his own refusal to take medications)

Amox-clav 500 mg q24h (administer after HD session on HD days)
Start Date: ___
Projected End Date: ___ (6 weeks)

Labs:
ATTN: ___ CLINIC - FAX: ___
Weekly
CBC with differential, BUN, Cr, AST, ALT, Total Bili, ALK PHOS, 
CRP

The ___ will schedule follow up and contact the patient or 
discharge facility. All questions regarding outpatient 
antibiotics after discharge
should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed. 

#CODE: FULL CODE, Presumed (Patient did not wish to engage in 
code status discussion) 
#CONTACT: Sister (___): ___. Sister-in-law ___ 
___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Acetate 667 mg PO TID W/MEALS 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q24H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tab-cap by mouth 
once a day Disp #*26 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY atrial fibrillation 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Simvastatin 40 mg PO QPM 
RX *simvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
5.  Calcium Acetate 667 mg PO TID W/MEALS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Soft tissue infection, right foot
B cell lymphoma

SECONDARY DIAGNOSES
========================
Peripheral vascular disease
End-stage renal disease on hemodialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
-Your podiatrist sent you to the hospital, because they were 
concerned about the wound in the right foot

What happened while you were in the hospital?
-They cleaned out the wound in your right foot (debridement) in 
the operating room
-You were started on antibiotics to help fight the infection in 
your foot.
-Vascular surgery team opened up one of the arteries in your 
leg, so that more blood can get to your foot.  They did not 
place a stent.  This procedure was difficult for you to 
tolerate, and so they did not open up all the arteries.
-You had a CT scan done that showed some areas concerning for 
cancer.
-You had a biopsy done of the lymph nodes in your chest, and you 
had this fluid drained from around your lungs.  This showed that 
you have a type of cancer called B cell lymphoma
-The cancer doctors (___) recommended that you come in 
___ morning for a PET-CT scan to see if there is lymphoma in 
other places in your body, and to come in ___ for a clinic 
visit with Dr. ___ new oncologist). 

What should you do once you leave the hospital?
-You should continue to take your antibiotics for the next 6 
weeks.
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team

 
Followup Instructions:
___